US06653310B2
a) 5-chloro-3-pyridinyl methoxymethyl ether
Under argon atmosphere, into a solution of 5-chloro-3-pyridinol (5.0 g, 38.6 mmol) in 100 mL of dry tetrahydrofuran at room temperature was added 60% sodium hydride (1.85 g, 46.3 mmol). After stirring the mixture for 1 hour at room temperature, a solution of chloromethyl methyl ether (3.42 g, 42.6 mmol) in 10 mL of dry tetrahydrofuran was added over 10 min. The resulting mixture was heated to reflux for 16 hours. The solvent was evaporated, and the residue was diluted with ethyl acetate, then washed with 1N aq. NaOH. The combined organic layer was then concentrated to give the crude material. Column chromatography on silica gel, eluting with ethyl acetate/hexane (30/70, v/v/), gave the desired product (6.52 g, 97%).

reactant | 5-chloro-3-pyridinol | 38.6 mmol, 5.0 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | sodium hydride | 46.3 mmol, 1.85 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 42.6 mmol, 3.42 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-chloro-3-pyridinyl methoxymethyl ether | 6.52 g, 97% | COCOC=1C=NC=C(C1)Cl | C7H8ClNO2
